US04227000
Ethyl 2-formyl-3-(2-furyl)propionate (24.0 g, 0.122 mol) was added to a mixture of nitroguanidine (12.69 g, 0.122 mol) and sodium methoxide (from 3.09 g, 0.134 mol, sodium) in methanol and the mixture was stirred and heated under reflux for 18 hours and evaporated to dryness. The residue was dissolved in water and the solution was adjusted to pH 4 with acetic acid. The solid which separated was filtered off to give 2-nitroamino-5-(2-furylmethyl)-4-pyrimidone (17.1 g, 59%). A sample recrystallised from methanol-acetic acid and from acetic acid had m.p. 183°-184°.

reactant | Ethyl 2-formyl-3-(2-furyl)propionate | 0.122 mol, 24.0 g | C(=O)C(C(=O)OCC)CC=1OC=CC1 | C10H12O4
reactant | nitroguanidine | 0.122 mol, 12.69 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium methoxide | 0.134 mol, 3.09 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-nitroamino-5-(2-furylmethyl)-4-pyrimidone | 17.1 g, 59% | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1OC=CC1 | C9H8N4O4
